US06720424B1
To a mixture of 1.09 g of methyl 2-(4-methoxycarbonylphenylthio)-5-nitrobenzoate obtained in the same procedures as described in Reaction Scheme (24) of Example 1 and 1.75 g of iron powder, were added 3 ml of isopropyl alcohol and an aqueous solution of ammonium chloride (0.05 g of ammonium chloride and 0.95 ml of water). The mixture was stirred for 10 minutes at 85° C. Chloroform was added to the reaction mixture. The mixture was filtered with celite, and was subsequently washed with chloroform. A mixture of the filtrate and the washing was washed with saturated brine, and was subsequently dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, 0.996 g of methyl 5-amino-2-(4-methoxycarbonylphenylthio)benzoate (yellow viscous substance) was obtained (Reaction Scheme (31) described below).

reactant | methyl 2-(4-methoxycarbonylphenylthio)-5-nitrobenzoate | 1.09 g | COC(=O)C1=CC=C(C=C1)SC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C16H13NO6S
reactant | isopropyl alcohol | 3 ml | C(C)(C)O | C3H8O
reactant | ammonium chloride | 0.95 ml, 0.05 g | [Cl-].[NH4+]
catalyst | iron | 1.75 g | [Fe] | Fe
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-amino-2-(4-methoxycarbonylphenylthio)benzoate | 0.996 g | NC=1C=CC(=C(C(=O)OC)C1)SC1=CC=C(C=C1)C(=O)OC | C16H15NO4S
